Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
amoxicillin / ampicillin / Bactrim / Ceclor / latex / Lorabid / 
Pediazole / Penicillins
 
Attending: ___.
 
Chief Complaint:
Rectal Bleeding
 
Major Surgical or Invasive Procedure:
Colonoscopy
 
History of Present Illness:
___ year old female with epilepsy, autism spectrum disorder who 
was discharged from ___ after presenting with hematochezia, 
was scheduled for a colonscopy from that admission, but has been 
having one week of crampy abdominal pain  along with ___ 
episodes of diarrhea daily  with bright red blood. On the day of 
presentation she describes feeling jittery. The patient denies 
fevers with her pain, although she notes some nausea she has not 
vomited. Since her discharge, she has been to the ED multiple 
times for identical complaints. 

Patient reports an approximate 20lb weight loss due to abdominal 
pain over the month prior to admission. She reports her diarrhea 
is brown with flecks of red blood.

In the ___ ED, her initial vitals were 99, 110, 114/72, 18, 
100%. She received Maalox, donnatal, lidocaine jelly and NS. Her 
stool was noted as blood flecked with GAUIAC +. Her tachycardia 
improved in the ED with the IV fluids.
 
Past Medical History:
-Depression. Patient has been hospitalized at least twice for
suicide attempt/suicidal ideation.
-Migraine headaches
-Autism
-Constipation
-History of abdominal wall infection in ___
-s/p breast reduction surgery
-ADHD
-Hypothyroidism
-Asthma
-History of sciatica
-Pseudotumor cerebri
 
Social History:
___
Family History:
Mother - CVA, HTN, glaucoma, thyroid d/o, GERD, arthritis, 
asthma
Grandmother - thyroid d/o
 
Physical Exam:
ROS:
 GEN: - fevers, - Chills, + 20lb Weight Loss
 EYES: - Photophobia, - Visual Changes
 HEENT: - Oral/Gum bleeding
 CARDIAC: - Chest Pain, - Palpitations, - Edema
 GI: - Nausea, - Vomitting, + Diarrhea, + Abdominal Pain, - 
Constipation, + Hematochezia
 PULM: - Dyspnea, - Cough, - Hemoptysis
 HEME: - Bleeding, - Lymphadenopathy
 GU: - Dysuria, - hematuria, - Incontinence
 SKIN: - Rash
 ENDO: - Heat/Cold Intolerance
 MSK: - Myalgia, - Arthralgia, - Back Pain
 NEURO: - Numbness, - Weakness, - Vertigo, - Headache
Remainder of 10-point ROS negative
 

PHYSICAL EXAM:

VSS: 97.7, 105/73, 83, 18, 99%%
 GEN: NAD
 Pain: ___
 HEENT: EOMI, MMM, - OP Lesions
 PUL: CTA B/L
 COR: RRR, S1/S2, - MRG
 ABD: markedly tender in epigastrium, - rebound, - guarding, ND, 
+BS, - CVAT
 EXT: - CCE
 NEURO: CAOx3, Non-Focal
 
Pertinent Results:
___ 10:20PM BLOOD WBC-9.9 RBC-4.67 Hgb-13.6 Hct-40.0 MCV-86 
MCH-29.1 MCHC-34.0 RDW-13.7 RDWSD-42.5 Plt ___
___ 10:20PM BLOOD Neuts-55.6 ___ Monos-5.7 Eos-3.6 
Baso-0.4 Im ___ AbsNeut-5.51 AbsLymp-3.44 AbsMono-0.57 
AbsEos-0.36 AbsBaso-0.04
___ 10:20PM BLOOD Glucose-79 UreaN-11 Creat-0.8 Na-140 
K-4.6 Cl-106 HCO3-22 AnGap-12
___ 10:20PM BLOOD ALT-15 AST-23 AlkPhos-71 TotBili-0.4
___ 10:20PM BLOOD Lipase-41
___ 10:20PM BLOOD Albumin-4.2
___ 10:20PM BLOOD CRP-13.5*

Colonoscopy: Linear ulcerations in the rectum without any 
evidence of active colitis.  Remainder of colon is normal.  
Pathology consistent with normal colonic mucosa.

Discharge labs:
___ 06:37AM BLOOD WBC-6.9 RBC-4.33 Hgb-12.4 Hct-35.9 MCV-83 
MCH-28.6 MCHC-34.5 RDW-13.3 RDWSD-40.4 Plt ___
___ 06:08AM BLOOD Glucose-78 UreaN-6 Creat-0.8 Na-142 K-4.2 
Cl-107 HCO3-21* AnGap-14
___ 07:27AM BLOOD ALT-13 AST-15 LD(LDH)-184 AlkPhos-62 
TotBili-0.3
___ 06:37AM BLOOD Calcium-8.9 Phos-3.1 Mg-1.___ year old female with epilepsy, autism spectrum disorder who 
was discharged from ___ after presenting with hematochezia, 
was scheduled for a colonscopy from that admission, but has been 
having one week of crampy abdominal pain along with ___ episodes 
of diarrhea daily with bright red blood. 

ACUTE/ACTIVE PROBLEMS:
# Rectal Bleeding
# Persistent Diarrhea: Patient is well-known to me from her 
prior hospitalization.  At that time she presented with 
abdominal pain, rectal bleeding, and diarrhea.  During her 
hospitalization she had minimal stool output and no rectal 
bleeding.  In that setting a colonoscopy was deferred by GI.  
Reassuringly her imaging was without any evidence of bowel 
inflammation.  Given her persistence of symptoms with now 
extending beyond the month she is in the category for persistent 
diarrhea.  The patient underwent a colonoscopy on ___ which was 
notable for linear ulcerations in the rectum for which biopsies 
were obtained and were unremarkable.  The remainder of the 
colonic mucosa was unremarkable.  Her diet was advanced and she 
reported persistence of diarrhea with normal labs.  Twice daily 
psyllium wafers were introduced with improvement in her symptoms 
as a bulking agent.  She will have both PCP and outpatient GI 
follow-up.

# Epigastric abdominal Pain: The patient has epigastric 
abdominal pain that is associated with nausea and vomiting.  
Particularly with p.o. intake.  This may represent her 
gastroparesis versus peptic ulcer disease.  She has no evidence 
of active bleeding.  She was encouraged to eat small meals and 
was continued on her home promotility agents as well as her home 
PPI and ranitidine.  Her pain was controlled with liquid 
Tylenol. 

# Chronic stable Asthma
- Continued home albuterol and fluticasone furoate inhaler.

# Depression: 
- Continued home aripirazole 20mg qhs, citalopram 40mg qhs,
quetiapine 100mg qhs 

# ADHD: 
- Continued home Adderall XR 60mg daily

# Hypothyroidism: 
- Continued home levothyroxine 75mcg daily, TSH 1.4

# Chronic migraine: 
- Hold homed naratriptan 1mg daily:PRN as non formulary

# GERD: 
- Continued home omeprazole 40mg daily, and ranitidine 300mg qhs

# Epilepsy: 
- Continued home topiramate 100mg daily

# Allergic rhinitis: 
- Continued home loratidine 10mg daily

TRANITIONAL ISSUES:
[] The patient was provided with a work letter as the patient's 
mother reported that she would be unable to return to work while 
having diarrhea.  The work letter is through her follow-up 
appointment.  Please evaluate the ability to return to work.
[] Please monitor nausea as well as diarrhea.  To date 
infectious workup has been unrevealing for her diarrhea as well 
as a normal colonoscopy (with exception of small linear 
ulcerations) and normal biopsies.  She is currently on psyllium 
wafers twice daily as a stool bulking agent.

Greater than 30 minutes was spent in care coordination and 
counseling on the day fo discharge. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol 0.083% Neb Soln 1 NEB IH BID:PRN Wheezing 
2. Albuterol Inhaler ___ PUFF IH Q4H:PRN Wheezing 
3. Amphetamine-Dextroamphetamine XR 60 mg PO DAILY 
4. ARIPiprazole 20 mg PO QHS 
5. Citalopram 40 mg PO QHS 
6. Docusate Sodium 100 mg PO DAILY 
7. Erythromycin 250 mg PO ___ AFTER BREAKFAST AND LUNCH 
8. Levothyroxine Sodium 75 mcg PO DAILY 
9. Loratadine 10 mg PO DAILY 
10. Naproxen 500 mg PO BID:PRN Pain - Moderate 
11. Omeprazole 40 mg PO DAILY 
12. QUEtiapine Fumarate 100 mg PO QHS 
13. QUEtiapine Fumarate 25 mg PO DAILY:PRN emotional upset 
14. Ranitidine 300 mg PO QHS 
15. Topiramate (Topamax) 100 mg PO DAILY 
16. Metoclopramide 10 mg PO QIDACHS nausea 
17. Apri (desogestrel-ethinyl estradiol) 0.15-0.03 mg oral DAILY 

18. Arnuity Ellipta (fluticasone furoate) 100 mcg/actuation 
inhalation DAILY 
19. naratriptan 1 mg oral DAILY:PRN migraine 

 
Discharge Medications:
1.  Acetaminophen (Liquid) 1000 mg PO Q8H:PRN Pain - Mild 
  Reason for PRN duplicate override: discontinuing the other 
2.  Psyllium Wafer 1 WAF PO BID Diarrhea 
RX *psyllium  1 Wafer by mouth twice a day Disp #*30 Wafer 
Refills:*0 
3.  Albuterol 0.083% Neb Soln 1 NEB IH BID:PRN Wheezing  
4.  Albuterol Inhaler ___ PUFF IH Q4H:PRN Wheezing  
5.  Amphetamine-Dextroamphetamine XR 60 mg PO DAILY  
6.  Apri (desogestrel-ethinyl estradiol) 0.15-0.03 mg oral DAILY 
 
7.  ARIPiprazole 20 mg PO QHS  
8.  Arnuity Ellipta (fluticasone furoate) 100 mcg/actuation 
inhalation DAILY  
9.  Citalopram 40 mg PO QHS  
10.  Docusate Sodium 100 mg PO DAILY  
11.  Erythromycin 250 mg PO ___ AFTER BREAKFAST AND LUNCH  
12.  Levothyroxine Sodium 75 mcg PO DAILY  
13.  Loratadine 10 mg PO DAILY  
14.  Metoclopramide 10 mg PO QIDACHS nausea  
15.  Naproxen 500 mg PO BID:PRN Pain - Moderate  
16.  naratriptan 1 mg oral DAILY:PRN migraine  
17.  Omeprazole 40 mg PO DAILY  
18.  QUEtiapine Fumarate 100 mg PO QHS  
19.  QUEtiapine Fumarate 25 mg PO DAILY:PRN emotional upset  
20.  Ranitidine 300 mg PO QHS  
21.  Topiramate (Topamax) 100 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Diarrhea
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Ms ___, 

You were admitted to the hospital with diarrhea and underwent a 
colonoscopy that did not reveal to cause of your diarrhea. You 
were found to have 2 small ulcers in your rectum but the biopsy 
did not show a cause for your bleeding or diarrhea. Please take 
your medications as directed and follow up with your PCP.
 
Followup Instructions:
___